US05504107
(S)-5-(2-Hydroxyethyl)-2,2-dimethyl-1,3-dioxolan-4-one p-toluenesulfonate.
Dried (S)-5-(2-hydroxyethyl)-2,2-dimethyl-1,3-dioxolane-4-one (9.0 g, 59.2 mmol) was dissolved in 100 mL of anhydrous pyridine under argon and cooled to -4° C. To this solution maintained at approximately 0° C. was added dropwise 11.3 g (59.22 mmol) of p-toluenesulfonyl chloride dissolved in 100 mL of pyridine. Following addition, the mixture was placed in the refrigerator (0°-4° C.) overnight. Water (150 mL) was added, and the aqueous mixture extracted with 4×200 mL of ether. The ether layers were combined, washed with 3 ×150 mL of water, 3×150 mL of saturated copper sulfate solution (until no dark blue color remained), 2×100 mL of water, 3×150 mL of brine, dried (Na2SO4), filtered, and evaporated under reduced pressure. The crude tosylate was purified by column chromatography using ethyl acetate:hexanes (1:1) to provide the title compound, 16.7 g (95%) as white solid: mp 48°-49° C.; α!D25 -3.7° (c=0.3, CH3OH); IR (KBr, cm-1) 2989, 1785, 1390, 1357, 1278 1H NMR (CDCl3) δ 7.80 (d, J=8.3 Hz, 2H), 7.36 (d, J=8.3 Hz, 2H), 4.43 (dd, J=4.4, 8.1 Hz, 1H), 4.27-4.14 (m, 2H), 2.46 (s, 3H), 2.3-2.17 (m, 1H), 2.09-1.92 (m, 1H), 1.58 (s, 3H), 1.51 (s, 3H); HRMS calculated for C14H18O6S (M+), 314.0824, found 314.0817.

reactant | (S)-5-(2-hydroxyethyl)-2,2-dimethyl-1,3-dioxolane-4-one | 59.2 mmol, 9.0 g | OCC[C@H]1C(OC(O1)(C)C)=O | C7H12O4
reactant | p-toluenesulfonyl chloride | 59.22 mmol, 11.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | 150 mL | O | H2O
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | (S)-5-(2-Hydroxyethyl)-2,2-dimethyl-1,3-dioxolan-4-one p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.OCC[C@H]1C(OC(O1)(C)C)=O | InChI=1S/C7H12O4.C7H8O3S/c1-7(2)10-5(3-4-8)6(9)11-7;1-6-2-4-7(5-3-6)11(8,9)10/h5,8H,3-4H2,1-2H3;2-5H,1H3,(H,8,9,10)/t5-;/m0./s1
